US05712267
55(a) 4-Nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-1methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
7.0 g of diphenylphosphoryl chloride and 3.4 g of diisopropylethylamine were added dropwise, whilst ice-cooling, to a solution of 8.6 g of 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 120 ml of dry acetonitrile, and the resulting mixture was stirred at the same temperature for 1 hour. 6.7 g of diisopropylethylamine and a solution of 13.8 g of (2S,4S)-4-mercapto-2-[4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-1-methylpyrrolidine trifluoromethanesulfonate in dry acetonitrile were then simultaneously added dropwise to the mixture, whilst ice-cooling, and the resulting mixture was allowed to stand overnight, whilst ice-cooling. At the end of this time, the reaction mixture was worked up and purified in a similar manner to that described in Example 49(a), to give 7.0 g of the title compound, as a powder.

reactant | diphenylphosphoryl chloride | 7.0 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | diisopropylethylamine | 3.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 8.6 g | O[C@H](C)[C@@H]1[C@@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | diisopropylethylamine | 6.7 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-4-mercapto-2-[4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-1-methylpyrrolidine trifluoromethanesulfonate | 13.8 g | FC(S(=O)(=O)O)(F)F.S[C@H]1C[C@H](N(C1)C)C(=O)N1CCN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 4-Nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-1methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 7.0 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCN(CC2)C(=O)[C@H]2N(C[C@H](C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C)C=C1 | C35H40N6O11S
